US06040331
Synthesis of 1-acetyl-2-(2-fluorophenyl)-1,2,2a,3,4,5-hexahydrobenz[cd]indol-5-one
The procedure of Example 1, steps 1 and 2 was repeated using phenylhydrazine hydrochloride (17.9 g) and (2-fluorobenzoyl)butyric acid (15.1 g) to synthesize 2-(2-fluorophenyl)-2,3-dihydroindole-3-propionic acid, which was reacted according the procedures of Example 2, step 1 and Example 3, step 2 to yield 4.8 g (total yield: 22%) of the titled compound as white crystals.

reactant | phenylhydrazine hydrochloride | 17.9 g | Cl.C1(=CC=CC=C1)NN
reactant | (2-fluorobenzoyl)butyric acid | 15.1 g | FC1=C(C(=O)C(C(=O)O)CC)C=CC=C1 | C11H11FO3
reactant | 2-(2-fluorophenyl)-2,3-dihydroindole-3-propionic acid | FC1=C(C=CC=C1)C1NC2=CC=CC=C2C1CCC(=O)O | C17H16FNO2
product | 1-acetyl-2-(2-fluorophenyl)-1,2,2a,3,4,5-hexahydrobenz[cd]indol-5-one | yield: 22% | C(C)(=O)N1C(C2C=3C(=CC=CC13)C(CC2)=O)C2=C(C=CC=C2)F | C19H16FNO2
